US07482341B2
2-Amino-6-bromopyridine (2 g) was dissolved in dioxane (50 mL), and at 0° C. under an argon athmosphere 1,3-bis(diphenylphosphino)propane nickel (II) chloride (0.627 g) was added followed by diisopropyl zinc (23.12 mL of a 1M solution in toluene, via syringe over 30 minutes). The mixture was allowed to reflux for 15 h, poured into 2-propanol, which was then concentrated in vacuo. The residue was partitioned between AcOEt and saturated aqueous NH4Cl solution, the layers were separated and the organic layer dried over Na2SO4, filtered and evaporated. The residue was purified by flash chromatography (methylene chloride/methanol 95:5) to give 6-isopropyl-pyridin-2-ylamine as light brown oil (0.48 g). MS (EI): 136.1 (M+).

reactant | 2-Amino-6-bromopyridine | 2 g | NC1=NC(=CC=C1)Br | C5H5BrN2
reactant | diisopropyl zinc | C(C)(C)[Zn]C(C)C
reactant | 2-propanol | CC(C)O | C3H8O
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 6-isopropyl-pyridin-2-ylamine | 0.48 g | C(C)(C)C1=CC=CC(=N1)N | C8H12N2
